US05290947
N-(2-(3-formyl-2,5-dimethyl-1H-pyrrolyl)ethyl)acetamide
123 ml (1.34 mol) of phosphoryl chloride are added dropwise in the course of 30 minutes at 0° C. to 750 ml of 1,2-dimethoxyethane and 109 ml of dimethyl formamide. The mixture is stirred for a further 30 minutes at 0° C., and, in the course of 45 minutes at 0° C., 180 g (1 mol) of N-(2-(2,5-dimethyl-1H-pyrrolyl)ethyl)acetamide are introduced. After 10 minutes at 0° C., the mixture is allowed to warm to 10° C., stirred for 1 h at 10° C. and hydrolysed by pouring in a solution of 250 g of sodium hydroxide in 920 ml of water in the course of 2 h at 20° C. to the reaction mixture. The resulting reaction mixture is filtered, the organic phase is isolated and the water phase is extracted twice, each time with 370 ml of 1,2-dimethoxyethane. The organic phases are combined and substantially concentrated in vacuum. After addition of 250 ml of toluene, the mixture is concentrated to dehydrate it, 1 l of ethyl acetate is added and the mixture is filtered over silica gel and charcoal, crystallised and dried.

reactant | phosphoryl chloride | 1.34 mol, 123 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | N-(2-(2,5-dimethyl-1H-pyrrolyl)ethyl)acetamide | 1 mol, 180 g | CC=1N(C(=CC1)C)CCNC(C)=O | C10H16N2O
reactant | sodium hydroxide | 250 g | [OH-].[Na+]
solvent | water | 920 ml | O | H2O
solvent | dimethyl formamide | 109 ml | CN(C=O)C | C3H7NO
product | N-(2-(3-formyl-2,5-dimethyl-1H-pyrrolyl)ethyl)acetamide | C(=O)C1=C(N(C(=C1)C)CCNC(C)=O)C | C11H16N2O2
